US09315521B2
5-(bromomethyl)-4-chloro-1-methyl-1H-imidazole was dissolved in DMF (20 mL). Potassium carbonate (3 g) and 6-methyl-2-sulfanylpyrimidin-4-ol (1.4 g, 10 mmol) were added. The new mixture was stirred at room temperature for 2 hours. DMF was removed under vacuum. The crude compound was purified by column chromatography to provide 2-{[(4-chloro-1-methyl-1H-imidazol-5-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol as the major product (350 mg, 13% overall yield); 1H NMR (400 MHz, DMSO-d6): δ 2.19 (s, 3H), 3.72 (s, 3H), 4.59 (s, 2H), 6.00 (bs, 1H), 7.59 (s, 1H); M+271.

reactant | 5-(bromomethyl)-4-chloro-1-methyl-1H-imidazole | BrCC1=C(N=CN1C)Cl | C5H6BrClN2
reactant | Potassium carbonate | 3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | 10 mmol, 1.4 g | CC1=CC(=NC(=N1)S)O | C5H6N2OS
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-{[(4-chloro-1-methyl-1H-imidazol-5-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol | ClC=1N=CN(C1CSC1=NC(=CC(=N1)O)C)C | C10H11ClN4OS
